US05319123
To a solution of 4.0 grams (18.1 mmol) of N-hydroxy-4-pivaloylbenzamide in 10 milliliters of ethanol is added an aqueous solution of 725 milligrams (18.1 mmol) of sodium hydroxide in 1 milliliter of water. To this is added 1.67 milliliters (23.6 mmol) of 2-bromoethanol; and the resulting mixture is heated at 55° C. for 24 hours. The mixture is cooled to 20° C., concentrated, and extracted 3 times with 10 milliliters of chloroform. The combined extracts are washed with 15 milliliters of water and then 15 milliliters of brine, dried over magnesium sulfate and concentrated. The residue is recrystallized from methylene chloride/hexane (1:4) to yield N-(2-hydroxyethoxy)-4-pivaloylbenzamide.

reactant | N-hydroxy-4-pivaloylbenzamide | 18.1 mmol, 4.0 grams | ONC(C1=CC=C(C=C1)C(C(C)(C)C)=O)=O | C12H15NO3
reactant | sodium hydroxide | 18.1 mmol, 725 milligrams | [OH-].[Na+]
reactant | 2-bromoethanol | 23.6 mmol, 1.67 milliliters | BrCCO | C2H5BrO
solvent | ethanol | 10 milliliters | C(C)O | C2H6O
solvent | water | 1 milliliter | O | H2O
product | N-(2-hydroxyethoxy)-4-pivaloylbenzamide | OCCONC(C1=CC=C(C=C1)C(C(C)(C)C)=O)=O | C14H19NO4
